US09260408B2
[F] Ethanesulfonic acid [5-(8-fluoro-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-ylmethyl]-amide
A mixture of 8-fluoro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (20 mg, 0.066 mmol), ethanesulfonic acid (5-bromo-pyridin-3-ylmethyl)-amide (intermediate A-11, 27.4 mg, 0.098 mmol), bis(triphenylphosphine)-palladium(II) chloride (4.6 mg, 0.0066 mmol) and aq. sodium carbonate solution (2 N, 0.07 mL) in DMF (1 mL) was heated in a microwave at 120° C. for 30 min. The resulting reaction mixture was then diluted with EtOAc, washed with water, dried over sodium sulfate and concentrated in vacuo. The residue was purified by prep-HPLC to afford the title compound (12.4 mg, 50%) as a white solid. MS: 378.1 (M+H+)+.

reactant | 8-fluoro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | 0.066 mmol, 20 mg | FC=1C=C(C=C2CCC(N(C12)C)=O)B1OC(C(O1)(C)C)(C)C | C16H21BFNO3
reactant | ethanesulfonic acid (5-bromo-pyridin-3-ylmethyl)-amide | 0.098 mmol, 27.4 mg | BrC=1C=C(C=NC1)CNS(=O)(=O)CC | C8H11BrN2O2S
reactant | sodium carbonate | 2 N, 0.07 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 0.0066 mmol, 4.6 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Ethanesulfonic acid [5-(8-fluoro-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-ylmethyl]-amide | 12.4 mg, 50% | FC=1C=C(C=C2CCC(N(C12)C)=O)C=1C=C(C=NC1)CNS(=O)(=O)CC | C18H20FN3O3S
